US04198420
A suspension of 3.4 g of 1-acetyl-4-(2-phenylthiophenyl)piperidine-4-carboxylic acid in 5 ml of freshly distilled thionyl chloride is warmed on a steam bath for 5 minutes to effect a clear solution. Any excess thionyl chloride is removed at 50° C. under reduced pressure. The residue is recrystallized from a benzene-cyclohexane mixture to provide 1-acetyl-4-(2-phenylthiophenyl)piperidine-4-carbonyl chloride.

reactant | 1-acetyl-4-(2-phenylthiophenyl)piperidine-4-carboxylic acid | 3.4 g | C(C)(=O)N1CCC(CC1)(C(=O)O)C1=C(C=CC=C1)SC1=CC=CC=C1 | C20H21NO3S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-acetyl-4-(2-phenylthiophenyl)piperidine-4-carbonyl chloride | C(C)(=O)N1CCC(CC1)(C(=O)Cl)C1=C(C=CC=C1)SC1=CC=CC=C1 | C20H20ClNO2S
